US06103750
To a suspension wherein 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)-3-cyanopyrazole (600 mg, 1.80 mmol), sodium trifluoro-methanesulfinate (366 mg, 2.35 mmol) and dimethylamine tosylate (587 mg, 2.70 mmol) are in toluene (5 ml), thionyl chloride (278 mg, 2.34 mmol) was added dropwise over a period of about 10 minutes and then stirred at 50 to 60° C. for 10 hours. After allowing time to cool, the reaction solution was poured into water, extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to silica gel column chromatography to give 150 mg of 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)-3-cyano-4-trifluoromethylsulfinylpyrazole.

reactant | 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)-3-cyanopyrazole | 1.80 mmol, 600 mg | NC1=CC(=NN1C=1C=C2C(OC(C2=CC1Cl)(F)F)(F)F)C#N | C12H5ClF4N4O
reactant | sodium trifluoro-methanesulfinate | 2.35 mmol, 366 mg | FC(S(=O)[O-])(F)F.[Na+]
reactant | dimethylamine tosylate | 2.70 mmol, 587 mg | S(=O)(=O)(O)C1=CC=C(C)C=C1.CNC
reactant | thionyl chloride | 2.34 mmol, 278 mg | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)-3-cyano-4-trifluoromethylsulfinylpyrazole | 150 mg | NC1=C(C(=NN1C=1C=C2C(OC(C2=CC1Cl)(F)F)(F)F)C#N)S(=O)C(F)(F)F | C13H4ClF7N4O2S
